US07342027B2
Preparation of 4-[N-[1-[N-(benzothiophen-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-(2-chloro-5-trifluoromethylphenyl)piperidin-3-one
In accordance with the same procedure as in Example 85, except that 4-[N-[1-[N-(benzothiophen-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-3-piperidinol hydrochloride was used instead of 4-[N-[1-[N-(furan-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-3-piperidinol hydrochloride and 1-bromo-2-chloro-5-trifluoromethylbenzene was used instead of 1-bromo-4-fluoro-2-thiomethoxybenzene in Step 1 thereof, 222 mg of the titled compound was prepared

reactant | 4-[N-[1-[N-(benzothiophen-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-3-piperidinol hydrochloride | Cl.S1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)NC2C(CNCC2)O
reactant | 1-bromo-2-chloro-5-trifluoromethylbenzene | BrC1=C(C=CC(=C1)C(F)(F)F)Cl | C7H3BrClF3
product | 4-[N-[1-[N-(benzothiophen-2-ylcarbonyl)amino]cyclohexanecarbonyl]amino]-1-(2-chloro-5-trifluoromethylphenyl)piperidin-3-one | 222 mg | S1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)NC2C(CN(CC2)C2=C(C=CC(=C2)C(F)(F)F)Cl)=O | C28H27ClF3N3O3S
